US06369086B1
N-Acetyl-4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide (Z-isomer)
The title compound was prepared in 26% yield from 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one and N-acetyl-4-aminobenzenesulfonamide according to Procedure J: 1H NMR (DMSO-d6): δ12.0 (s, 1H), 11.2 (d, 1H), 10.9 (s, 1H), 8.1 (d, 1H), 7.9 (m, 3H), 7.6 (d, 2H), 7.1 (d, 1H), 2.0 (s, 3H); ESI−MS m/z413 (M−H)−.

reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
reactant | N-acetyl-4-aminobenzenesulfonamide | C(C)(=O)NS(=O)(=O)C1=CC=C(C=C1)N | C8H10N2O3S
product | N-Acetyl-4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide | 26% yield | C(C)(=O)NS(=O)(=O)C1=CC=C(C=C1)NC=C1C(NC2=CC=C3N=CSC3=C12)=O | C18H14N4O4S2
